US07323455B2
4-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-2-fluorobenzonitrile
Prepared from 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-bromo-2-fluorobenzonitrile generally according to the coupling procedure described in examples 82 and 1. 1H NMR (DMSO-d6): δ 10.08 (s, 1H), 7.92-7.99 (m, 2H), 7.77-7.79 (m, 1H), 7.64-7.69 (m, 2H), 7.22 (d, J=8.39 Hz, 1H), 4.28 (s, 2H), 1.62 (s, 6H). MS (ESI) m/z 311 ([M+H]+); MS (ESI) m/z 309 ([M−H]−).

reactant | 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C11H12BrNO2
reactant | 3-bromo-2-fluorobenzonitrile | BrC=1C(=C(C#N)C=CC1)F | C7H3BrFN
product | 4-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-2-fluorobenzonitrile | CC1(OCC(NC2=C1C=C(C=C2)C2=CC(=C(C#N)C=C2)F)=O)C | C18H15FN2O2
